* diff-receiver-sensitivity -- differential receiver input sensitivity vs. §4
*
* Netlist FRAGMENT. The harness supplies the title, the .include of the
* gf180mcu models, the corner .lib sections, .temp, the .control block and
* .end. Parameters provided by the harness: vdd_val, vdd_nom, temp_c.
*
* DUT: design/netlist/differential_receiver.spice (named by tb.json's "dut"),
* the schematic-level export of design/differential_receiver.sch.
*
* What this substantiates (spec/usb2-device-phy.md):
*   §4   differential input sensitivity |(D+) − (D−)| > 200 mV, over a
*        common-mode input range of 0.8-2.5 V
*   §8.2 "Receiver thresholds ... DC/parametric analysis across the 45 corners"
*
* Method: three copies of the receiver, one per common-mode point named by §4
* (0.8 V, the 1.65 V midpoint, 2.5 V). A single swept source `vsw` is fanned
* out to all three as a *differential* excitation through ideal VCVSs --
* D+ = VCM + vsw/2, D− = VCM − vsw/2 -- so one DC sweep produces the input
* transfer curve of all three at once and every measurement below is a vector
* over the differential-input axis.
*
* The sweep runs to ±0.5 V rather than stopping at the ±0.2 V the spec row
* names. That is deliberate: if the receiver's input-referred threshold at some
* corner lands *outside* ±200 mV, a sweep clipped at ±200 mV would simply fail
* to find a crossing and report a broken measurement, when the honest result is
* a number that misses the limit. The wider sweep makes an out-of-spec corner
* record as a FAIL with a value attached instead of as an error.
*
* ±0.5 V is also the widest differential that is physically representable here:
* at the 2.5 V common-mode point and the 2.97 V low-supply corner, a larger
* differential would drive one of the two inputs above its own rail, so a wider
* sweep would be measuring a condition the part can never see.
*
* Threshold extraction deliberately does NOT use `meas dc ... WHEN`: on a
* corner whose input-referred threshold falls outside the sweep, `meas` reports
* "out of interval" and produces no value at all, which records as a broken
* simulation rather than as the out-of-spec result it actually is. The
* saturating vector form in tb.json's `derive` instead reports the sweep
* endpoint, i.e. "at least this bad", so every corner yields a number and the
* spec check decides pass/fail. (The first `sim/` record for this experiment,
* 20260817-203612-a408cb6, was taken with the `meas` form and errored at 18 of
* the 45 corners for exactly this reason; it is superseded, not deleted.)
*
* .csparam publishes the per-corner logic midpoint into the control block so
* the threshold search follows the supply the harness set for this PVT point.

.csparam vmid={0.5*vdd_val}

vsup VDD 0 dc {vdd_val}
vsw  sw  0 dc 0

* --- common-mode 0.8 V (low end of the §4 range)
vcm1 CM1 0 dc 0.8
edp1 DP1 CM1 sw 0  0.5
edm1 DM1 CM1 sw 0 -0.5
Xrx1 VDD 0 DP1 DM1 RXD1 differential_receiver

* --- common-mode 1.65 V (midpoint of the §4 range)
vcm2 CM2 0 dc 1.65
edp2 DP2 CM2 sw 0  0.5
edm2 DM2 CM2 sw 0 -0.5
Xrx2 VDD 0 DP2 DM2 RXD2 differential_receiver

* --- common-mode 2.5 V (high end of the §4 range)
vcm3 CM3 0 dc 2.5
edp3 DP3 CM3 sw 0  0.5
edm3 DM3 CM3 sw 0 -0.5
Xrx3 VDD 0 DP3 DM3 RXD3 differential_receiver
