* dplus-pullup-tolerance -- effective D+ pull-up impedance vs. the ±5 % spec row
*
* Netlist FRAGMENT. The harness supplies the title, the .include of the
* gf180mcu models, the corner .lib sections, .temp, the .control block and
* .end. Parameters provided by the harness: vdd_val, vdd_nom, temp_c.
*
* DUT: design/netlist/dplus_pullup.spice (named by tb.json's "dut"), the
* schematic-level export of design/dplus_pullup.sch.
*
* What this substantiates (spec/usb2-device-phy.md):
*   §5   nominal resistance 1.5 kΩ, tolerance ±5 % (1.425-1.575 kΩ) across
*        the full PVT envelope
*   §8.2 "D+ pull-up tolerance ... DC/parametric analysis across the 45 corners"
*
* §5 is explicit that a bare untrimmed gf180mcu poly resistor cannot hold ±5 %
* across process, and that meeting the row therefore requires "a trimmed/
* calibrated resistor (e.g., a binary-weighted trim ladder set at test)". The
* DUT implements exactly that: a 5-bit binary-weighted ladder (TRIM0..TRIM4)
* shunting segments of the base resistor. The claim this testbench evaluates is
* therefore the one §5 actually makes: *with the trim ladder*, is there a trim
* code at every PVT corner that lands inside 1.425-1.575 kΩ?
*
* How the 32 trim codes are swept in one analysis: `vsw` is swept 0.5 -> 31.5
* in unit steps and five behavioural sources decode it into the TRIM bits, so
* each DC sweep point is one trim code and every measurement below is a
* 32-element vector over the code axis. The half-step offset keeps floor()
* away from a floating-point boundary. TRIMk high shorts segment k out, so
* code 0 is the maximum resistance and code 31 the minimum.
*
* Bias condition: the pull-up drives D+ through the host's 15 kΩ full-speed
* downstream-port pull-down (USB 2.0 §7.1.5), which is the operating point the
* 1.5 kΩ value exists to set up. The measured quantity is the *effective* D+
* pull-up impedance -- ladder segments plus the enable and shunt switch
* on-resistances -- because that is what a host sees, and what §5's tolerance
* has to hold on.
*
* VPU_REG: §5 calls for an internally regulated 3.0-3.6 V pull-up rail, but no
* regulator has been designed yet (design/ has no regulator schematic), so this
* testbench ties VPU_REG to the harness-swept supply. That is the conservative
* choice -- it exposes the pull-up to the full ±10 % supply excursion a
* regulator would remove -- and it is stated here rather than silently assumed.

vsup VDD 0 dc {vdd_val}
vpu  VPU 0 dc {vdd_val}
ven  PU_EN 0 dc {vdd_val}

* trim-code sweep axis: v(sw) = code + 0.5
vsw sw 0 dc 0.5

* binary decode of the code into the five trim bits (0 / VDD logic levels)
bt0 TRIM0 0 v = {vdd_val}*(floor(v(sw))     - 2*floor(v(sw)/2))
bt1 TRIM1 0 v = {vdd_val}*(floor(v(sw)/2)   - 2*floor(v(sw)/4))
bt2 TRIM2 0 v = {vdd_val}*(floor(v(sw)/4)   - 2*floor(v(sw)/8))
bt3 TRIM3 0 v = {vdd_val}*(floor(v(sw)/8)   - 2*floor(v(sw)/16))
bt4 TRIM4 0 v = {vdd_val}*(floor(v(sw)/16)  - 2*floor(v(sw)/32))

Xpu DP VPU 0 PU_EN TRIM0 TRIM1 TRIM2 TRIM3 TRIM4 dplus_pullup

* host full-speed downstream-port pull-down
rload DP 0 15k
